US04075408
A mixture of 2.9 g. of 1,6-dihydro-1,3-dimethyl7-(methylthio)-4-phenylpyrazolo[3,4-e][1,4]diazepine (prepared as disclosed in U.S. Pat. No. 3,770,762), 1.5 g. of 2-propynylamine and 50 ml. of ethanol is heated at reflux for 48 hours, then evaporated at reduced pressure to give a residue of 1,6-dihydro-1,3-dimethyl-4-phenyl-7-(2-propynylamino)pyrazolo[3,4-e][1,4]diazepine; m.p. 193°-195° C. after crystallization from ether.

reactant | 1,6-dihydro-1,3-dimethyl7-(methylthio)-4-phenylpyrazolo[3,4-e][1,4]diazepine | CN1N=C(C2=C1N=C(CN=C2C2=CC=CC=C2)SC)C | C15H16N4S
reactant | 2-propynylamine | C(C#C)N | C3H5N
solvent | ethanol | C(C)O | C2H6O
product | 1,6-dihydro-1,3-dimethyl-4-phenyl-7-(2-propynylamino)pyrazolo[3,4-e][1,4]diazepine | CN1N=C(C2=C1N=C(CN=C2C2=CC=CC=C2)NCC#C)C | C17H17N5
